US05965619
α-(2-Methyl-5-methoxy-3-indenyl) acetonitrile
When α-cyanopropionic acid is used in place of cyano acetic acid in the above example, then the product is α-(2-methyl-5-methoxy-3-indenyl)-propionitrile.

reactant | α-cyanopropionic acid | C(#N)C(C(=O)O)C | C4H5NO2
reactant | α-(2-methyl-5-methoxy-3-indenyl)-propionitrile | CC=1CC2=CC=C(C=C2C1C(C#N)C)OC | C14H15NO
product | α-(2-Methyl-5-methoxy-3-indenyl) acetonitrile | CC=1CC2=CC=C(C=C2C1CC#N)OC | C13H13NO
